US07763639B2
3-(1-ETHYLPIPERIDIN-4-YL)PHTHALONITRILE
Preparation according to Example 31: 1-ethyl-4-[2-fluoro-3-(methylsulfonyl)phenyl]-piperidine (1.06 g, 3.72 mmol), N,N-dimethylformamide (30 ml), sodium cyanide (0.7 g, 14.0 mmol) and 18-crown-6-ether (5 mg). Yield: 0.35 g. MS m/z (relative intensity, 70 eV) 239 (M+, 3), 225 (17), 224 (bp), 154 (6), 71 (5).

reactant | 1-ethyl-4-[2-fluoro-3-(methylsulfonyl)phenyl]-piperidine | 3.72 mmol, 1.06 g | C(C)N1CCC(CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C14H20FNO2S
reactant | sodium cyanide | 14.0 mmol, 0.7 g | [C-]#N.[Na+]
reactant | 18-crown-6-ether | 5 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(1-ETHYLPIPERIDIN-4-YL)PHTHALONITRILE | C(C)N1CCC(CC1)C1=C(C(C#N)=CC=C1)C#N | C15H17N3
